US05747518
1) 2-(1-hydroxy-1,3-dimethylbutyl)-3-t-butoxycarbonylaminothiophene (Process B)
A tetrahydrofuran solution of 2-methylpropylmagnesiumbromide prepared from 2.9 g of 2-methylpropylbromide, 0.47 g of magnesium and 20 ml of tetrahydrofuran was cooled to 10° C., a solution containing 1 g of 2-acetyl-3-t-butyloxycarbonylaminothiophene in 10 ml of tetrahydrofuran was dropwise added at 15° C. or less, and the mixture was stirred at room temperature for 2 hours. Thereafter a saturated aqueous ammonium chloride solution was dropwise added under cooling. The reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium solfate. The solvent was distilled off under reduced pressure to obtain 1.2 g of the product. The yield was 98%.

reactant | 2-methylpropylmagnesiumbromide | CC(C[Mg]Br)C
reactant | 2-methylpropylbromide | 2.9 g | CC(CBr)C | C4H9Br
reactant | magnesium | 0.47 g | [Mg] | Mg
reactant | 2-acetyl-3-t-butyloxycarbonylaminothiophene | 1 g | C(C)(=O)C=1SC=CC1NC(=O)OC(C)(C)C | C11H15NO3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-1,3-dimethylbutyl)-3-t-butoxycarbonylaminothiophene | 1.2 g, yield was 98% | OC(CC(C)C)(C)C=1SC=CC1NC(=O)OC(C)(C)C | C15H25NO3S
